US09340538B2
2-(4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-phenyl-3,6-dihydropyrimidin-4-yl)methyl)morpholin-3-yl)acetic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-phenyl-1,4-dihydropyrimidine-5-carboxylate (0.76 g, 1.53 mmol) (The compound was synthesized according to the procedure as described in WO2010069147) was reacted with 2-(morpholin-3-yl)acetic acid hydrochloride (0.28 g, 1.53 mmol) according to the procedure as described in Example 28 to give the title compound as a yellow solid (0.42 g, 49%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-phenyl-1,4-dihydropyrimidine-5-carboxylate | 1.53 mmol, 0.76 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C1=CC=CC=C1 | C20H17Br2FN2O2
reactant | 2-(morpholin-3-yl)acetic acid hydrochloride | 1.53 mmol, 0.28 g | Cl.N1C(COCC1)CC(=O)O
product | 2-(4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-phenyl-3,6-dihydropyrimidin-4-yl)methyl)morpholin-3-yl)acetic acid | 0.42 g, 49% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C1=CC=CC=C1)CN1C(COCC1)CC(=O)O)C(=O)OCC | C26H27BrFN3O5
